US03989835
Preparation of 3'-Bromacetylacetanilide (IA)
To a stirred solution of 110.0 g. (0.62 mole) of 3'-acetylacetanilide in 2400 ml. of chloroform is added dropwise a solution of 33.0 ml. (102.9 g; 0.644 mole) of bromine in 240 ml. of chloroform. The solution is stirred one hour and the resultant precipitate is then filtered, washed with ether and dried. The solid is stirred in a large volume of water to give an oily precipitate which crystallizes on further stirring. The solid is filtered, washed with water and then 2-propanol. The dried product weighs 148.34 g., and is recrystallized from 2-propanol to give the product, melting point 108.5°-110°C. Analysis: Calcd. for C10H10BrNO2 : Calcd: C, 46.90; H, 3.94; Br, 31.20; N, 5.47. Found: C, 47.12; H, 3.94; Br, 31.21; N, 5.47.

reactant | 3'-acetylacetanilide | 0.62 mole | C(C)(=O)C=1C=C(NC(C)=O)C=CC1 | C10H11NO2
reactant | bromine | 0.644 mole, 102.9 g | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3'-Bromacetylacetanilide | BrCC(=O)C=1C=C(NC(C)=O)C=CC1 | C10H10BrNO2
